US04695569
A mixture of 7 parts of 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine, 2.1 parts of carbon disulfide and 90 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured into water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from ethanol. The product was filtered off and dried in vacuo overnight at 120° C., yielding 2.3 parts (29%) of 7-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-thiazolo[5,4-d]pyrimidine-2-thiol monohydrochloride; mp. 226.5° C. (compound 148).

reactant | 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine | ClC1=C(C(=NC=N1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)N | C25H28ClFN8
reactant | carbon disulfide | C(=S)=S | CS2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-thiazolo[5,4-d]pyrimidine-2-thiol monohydrochloride | 29% | Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2C1=C(N=CN2)SC(=N1)S | InChI=1S/C26H27FN8S2.ClH/c27-18-7-5-17(6-8-18)15-35-21-4-2-1-3-20(21)32-25(35)31-19-9-12-34(13-10-19)14-11-28-23-22-24(30-16-29-23)37-26(36)33-22;/h1-8,16,19H,9-15H2,(H,31,32)(H,33,36)(H,28,29,30);1H
